US06667316B1
A mixture of N-{2-[(1R)-1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}-2-chloroacetamide (0.70 g, 1.41 mmol), and dimethylamine in tetrahydrofuran (2.4 mL, 2N, 4.8 mmol) in acetonitrile (15 mL) was stirred at room temperature overnight. The solvent was removed in vacuo to yield an oil. The oil was stirred in ethanol (5 mL). The suspension was filtered and washed with ethanol to give a white solid. To a solution of the solid in ethyl acetate (5 mL) was added hydrogen chloride in ether (1.5 mL, 1N). The resulting suspension was filtered and the solid was washed with ether to give N-{2-[(1R)-1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}-2-(dimethylamino)acetamide hydrogen chloride as a yellow solid (480 mg, 63% yield); mp, 192-194° C.; 1H NMR (DMSO-d6) δ1.33 (t, J=6.9 Hz, 3H, CH3), 2.87 (s, 6H, 2CH3), 3.03 (s, 3H, CH3), 3.74 (s, 3H, CH3), 4.02 (q, J=7.0 Hz, 2H, CH2), 4.16 (dd, J=4.2, 14.3 Hz, 1H, CHH), 4.25 (brs, 2H, CH2), 4.34 (dd, J=10.8, 14.4 Hz, 1H, CHH), 5.79 (dd, J=4.2, 10.4 Hz, 1H, NCH), 6.92-6.99 (m, 2H, Ar), 7.08 (s, 1H, Ar), 7.69 (d, J=7.3 Hz, 1H, Ar), 7.88 (t, J=7.7 Hz, 1H, Ar), 8.21-8.27 (m, 1H, Ar), 10.29 (s, 1H, HCl), 10.64 (s, 1H, NH); 13C NMR (DMSO-d6) δ14.65, 41.04, 43.36, 47.23, 52.86, 55.51, 58.09, 63.86, 111.79, 112.39, 119.22, 119.68, 127.78, 127.99, 129.42, 131.76, 134.25, 134.34, 135.95, 147.87, 148.92, 164.60, 166.79; Anal Calcd for C24H29N3O7S+1 HCl: C, 53.38; H, 5.60; N, 7.78; Cl, 6.56. Found: C, 53.52; H, 5.70; N, 7.61; Cl, 6.44.

reactant | N-{2-[(1R)-1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}-2-chloroacetamide | 1.41 mmol, 0.70 g | C(C)OC=1C=C(C=CC1OC)[C@H](CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NC(CCl)=O)=O | C22H23ClN2O7S
reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 4.8 mmol, 2N, 2.4 mL | O1CCCC1 | C4H8O
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | 1N, 1.5 mL | CCOCC | C4H10O
product | N-{2-[(1R)-1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}-2-(dimethylamino)acetamide hydrogen chloride | 480 mg, 63% yield | Cl.C(C)OC=1C=C(C=CC1OC)[C@H](CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NC(CN(C)C)=O)=O | InChI=1S/C24H29N3O7S.ClH/c1-6-34-20-12-15(10-11-19(20)33-4)18(14-35(5,31)32)27-23(29)16-8-7-9-17(22(16)24(27)30)25-21(28)13-26(2)3;/h7-12,18H,6,13-14H2,1-5H3,(H,25,28);1H/t18-;/m0./s1
